US06369086B1
a) Diethyl (3-nitropyridin-2-yl)-malonate
Sodium hydride (60% dispersion in oil, 5.57 g, 0.14 mol) was carefully washed with hexanes under nitrogen before the addition of DMSO (115 mL). Diethyl malonate (22.3 g, 0.14 mol) was added dropwise over 20 min, and the mixture was stirred for an additional 30 min at room temperature. 2-Chloro-3-nitropyridine (10 g, 0.06 mol) was added to the reaction, and the reaction was placed in a pre-heated oil bath set to 100° C. for 15 min. The reaction was cooled to room temperature and poured into aqueous ammonium chloride (saturated solution, 150 mL). The aqueous solution was extracted with EtOAc:hexanes (1:1) four times (200 mL each), and the organic layers were combined. The organics were concentrated to afford a solid that was recrystallized from a minimal amount EtOAc:hexanes (1:1) to provide the title compound (12.5 g, 70% yield). APCI MS m/z 281 (M−H).

reactant | Sodium hydride | 0.14 mol, 5.57 g | [H-].[Na+]
reactant | Diethyl malonate | 0.14 mol, 22.3 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-Chloro-3-nitropyridine | 0.06 mol, 10 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | ammonium chloride | 150 mL | [Cl-].[NH4+]
solvent | DMSO | 115 mL | CS(=O)C | C2H6OS
product | Diethyl (3-nitropyridin-2-yl)-malonate | 12.5 g, 70% yield | [N+](=O)([O-])C=1C(=NC=CC1)C(C(=O)OCC)C(=O)OCC | C12H14N2O6
